US09334290B2
A mixture of 4-bromo-2,5-difluorobenzoic acid (2.50 g, 10.6 mmol) and hydrazine (3.81 mL, 121 mmol) in N-methyl-2-pyrrolidinone (2 mL) was heated at 95° C. for 4 h. The cooled mixture was poured into vigorously stirred 6 M aqueous HCl (400 mL) which was cooled in an NaCl-ice bath. The resulting precipitate was collected by filtration, washed with 6 M aqueous HCl (200 mL) and dried under vacuum to give 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride as a yellow solid (1.88 g, 71% purity, 44% yield), used without further purification.

reactant | 4-bromo-2,5-difluorobenzoic acid | 10.6 mmol, 2.50 g | BrC1=CC(=C(C(=O)O)C=C1F)F | C7H3BrF2O2
reactant | hydrazine | 121 mmol, 3.81 mL | NN | H4N2
reactant | HCl | 6 M, 400 mL | Cl | ClH
solvent | N-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride | 44% yield | Cl.BrC1=CC(=C(C(=O)O)C=C1F)NN | InChI=1S/C7H6BrFN2O2.ClH/c8-4-2-6(11-10)3(7(12)13)1-5(4)9;/h1-2,11H,10H2,(H,12,13);1H
